US06316466B1
To a solution of 5-amino-1-(4-fluorophenyl)-4-[3-(2-tert-butyldimethylsiloxyethyl)-benzoyl]pyrazole (1.2 g, 3.0 mmol) in tetrahydrofuran (25 ml) was added tetrabutylammonium fluoride (3.6 ml, 3.6 mmol, 1 M solution in tetrahydrofuran). After 1 h, the reaction mixture was poured into brine and the product was extracted into ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (elution gradient: 40-100% ethyl acetate/hexane) to give 5-amino-1-(4-fluorophenyl)-4-[3-(2-hydroxyethyl)benzoyl]pyrazole (0.8 g).

reactant | 5-amino-1-(4-fluorophenyl)-4-[3-(2-tert-butyldimethylsiloxyethyl)-benzoyl]pyrazole | 3.0 mmol, 1.2 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)CCO[Si](C)(C)C(C)(C)C)=O | C24H30FN3O2Si
reactant | tetrabutylammonium fluoride | 3.6 mmol, 1 M, 3.6 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 5-amino-1-(4-fluorophenyl)-4-[3-(2-hydroxyethyl)benzoyl]pyrazole | 0.8 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)CCO)=O | C18H16FN3O2
